US08017646B2
Following the procedure described in example 1§B, but starting from 3-(2-naphtyl)propan-1-ol (11.7 mmol), triethylamine (2.5 mL), methanesulfonyl chloride (1.7 mL) and dichloromethane (50 mL), affords 1.7 g of 3-(2-naphtyl)propan-1-ol mesylate used without further purification.

reactant | 3-(2-naphtyl)propan-1-ol | 11.7 mmol | C1=C(C=CC2=CC=CC=C12)CCCO | C13H14O
reactant | triethylamine | 2.5 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.7 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(2-naphtyl)propan-1-ol mesylate | 1.7 g | S(C)(=O)(=O)OCCCC1=CC2=CC=CC=C2C=C1 | C14H16O3S
